Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Small bowel obstruction
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ who had a salphingo-oophorectomy in ___ at ___ and
more distant umbilical/ventral hernia repairs presents with
crampy abdominal pain of moderate to severe intensity for the
past 8 days. She reports it started on ___ after she had a meal
and rather abruptly. She ended up seeking care at ___ and was
admitted from ___ to ___ with an NGT and IVF and had her diet
slowly advanced. She was having bowel movements and passing gas
by the time of her discharge but notes she was doing this
intermittently through her stay too. She felt well on ___ when
she saw her PCP but her symptoms recurred this morning prompting
her to come to the ___ ED.

She reports that it is intermittent ___ crampy abdominal pain
accompanied by nausea. She feels more distended now after
drinking contrast for the CT scan. She currently is not in any
pain and denies nausea. She is passing gas intermittently and
having bowel movements. 

 
Past Medical History:
PMH: sarcoidosis, asthma, obesity

PSH: salpingo-oopherectomy at ___ ___, ventral hernia repair
x4 with mesh ___ (___), remote umbilical hernia repair

 
Social History:
___
Family History:
-
 
Physical Exam:
Upon admission:
97.9  51  134/70  16  100RA
NAD, AAOx3, non-toxic
RRR
unlabored respirations
abdomen obese, soft, rectus diastasis in upper abdomen,
non-tender to deep palpation with some minor discomfort in lower
abdomen with deep palpation
extremities warm and well perfused

Upon discharge:
Vital Signs: 98.3 47 111/69 20 100%RA
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, 
PULM:  no respiratory distress
BACK: no vertebral tenderness, no CVAT
ABD: soft, NT, ND, no mass, rectus diastasis in upper abdomen
EXT: WWP, no CCE, no tenderness, 2+ B/L ___
NEURO: A&Ox3, no focal neurologic deficits
 
Pertinent Results:
___ 09:38AM BLOOD WBC-4.8 RBC-4.02 Hgb-12.1 Hct-37.9 MCV-94 
MCH-30.1 MCHC-31.9* RDW-14.7 RDWSD-50.8* Plt ___
___ 06:30PM BLOOD WBC-5.1 RBC-3.65* Hgb-10.8* Hct-33.8* 
MCV-93 MCH-29.6 MCHC-32.0 RDW-14.5 RDWSD-49.2* Plt ___
___ 06:30PM BLOOD Neuts-42.2 ___ Monos-9.1 Eos-0.8* 
Baso-0.6 Im ___ AbsNeut-2.13 AbsLymp-2.36 AbsMono-0.46 
AbsEos-0.04 AbsBaso-0.03
___ 06:40AM BLOOD Glucose-60* UreaN-4* Creat-0.6 Na-145 
K-4.1 Cl-109* HCO3-16* AnGap-24*
___ 06:30PM BLOOD Glucose-98 UreaN-5* Creat-0.6 Na-141 
K-3.8 Cl-105 HCO3-25 AnGap-15
___ 06:40AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.3
___ 06:44PM BLOOD Lactate-0.9
 
Brief Hospital Course:
Ms. ___ presented to the Emergency Department on ___ 
with abdominal distention and pain. He was evaluated by the 
Acute Care Surgery Service and had a CT scan of her abdomen that 
revealed a question of closed loop obstruction. Her clinical 
presentation and physical examination, however, was benign. She 
also had bowel function. However, she was admitted for 
observation to the floor with a nasogastric tube, IV fluids, and 
bowel rest.

Neuro: The patient was alert and oriented throughout 
hospitalization; Patient did not require pain medications during 
the admission.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO with a 
___ tube in place for decompression.  On ___ the 
NGT was removed, therefore, the diet was advanced sequentially 
to a Regular diet, which was well tolerated. Patient's intake 
and output were closely monitored. Since before the admission, 
patient continued to pass gas and make bowel movements.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Loratadine 10 mg PO DAILY 
2. DiphenhydrAMINE 25 mg PO QHS 
3. Topiramate (Topamax) 50 mg PO QHS 
4. Atorvastatin 80 mg PO QPM 
5. Docusate Sodium 100 mg PO DAILY 
6. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing, shortness of 
breath 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea, wheeze  
2.  Atorvastatin 80 mg PO QPM  
3.  DiphenhydrAMINE 25 mg PO QHS  
4.  Docusate Sodium 100 mg PO DAILY  
5.  Loratadine 10 mg PO DAILY  
6.  Topiramate (Topamax) 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to the Acute Care Surgery Service on ___ 
with abdominal pain and concern for a small bowel obstruction. 
You had a nasogastric tube placed to help decompress your 
stomach, given IV fluids, and bowel rest. Once your bowel 
function returned, the nasogastric tube was removed and your 
diet was progressed to regular with good tolerability. You are 
now doing better and ready to be discharged to home to continue 
your recovery. 

Please note the following discharge instructions: 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

It was a pleasure being part of your care!
 
Followup Instructions:
___